US07943622B2
Step 1. Synthesis of ethyl 2-amino-4-methyloxazole-5-carboxylate
Ethyl 2-chloroacetoacetate (8.0 mL, 59 mmol) was added to a mixture of urea (10.6 g, 176 mmol) in MeOH (40 mL), and the reaction mixture was heated to 66° C. overnight. Upon cooling to room temperature, the solids were collected by filtration and suspended in 1 N aqueous NaOH (50 mL). This was extracted with EtOAc (100 mL). The aqueous layer was brought to pH ˜11 with NaOH and was extracted with EtOAc (3×100 mL). The EtOAc extracts were combined, dried over Na2SO4, filtered, and concentrated under reduced pressure. This gave 5.02 g (50%) of the title compound as a white solid. LC-MS: RT=5.1 min, [M+H]+=171.

reactant | Ethyl 2-chloroacetoacetate | 59 mmol, 8.0 mL | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | urea | 176 mmol, 10.6 g | NC(=O)N | CH4N2O
solvent | MeOH | 40 mL | CO | CH4O
product | ethyl 2-amino-4-methyloxazole-5-carboxylate | NC=1OC(=C(N1)C)C(=O)OCC | C7H10N2O3
